US04623486
To a well-stirred suspension consisting of 1.34 g. (5.0 mmole) of 4-(N,N-diethylaminomethyl)benzoic acid hydrochloride (the product of Preparation G) in 25 ml. of methylene chloride under a nitrogen atmosphere, there was added over a five-minute period a solution consisting of 1.5 g. (0.0118 mole) of oxalyl chloride dissolved in 5 ml. of methylene chloride. The resulting reaction mixture was refluxed for a period of 17 hours and then cooled to room temperature (~20° C.). The colorless solution so obtained was evaporated under reduced pressure, and the resulting residue was washed twice with methylene chloride and then stripped free of solvent to give a white solid product. In this way, there was readily obtained substantially pure 4-(N,N-diethylaminomethyl)benzoyl chloride hydrochloride, which was used in the next reaction step without any further purification being necessary. The yield of product was assumed to be quantitative.

reactant | 4-(N,N-diethylaminomethyl)benzoic acid hydrochloride | 5.0 mmole | Cl.C(C)N(CC)CC1=CC=C(C(=O)O)C=C1
reactant | oxalyl chloride | 0.0118 mole | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(N,N-diethylaminomethyl)benzoyl chloride hydrochloride | Cl.C(C)N(CC)CC1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C12H16ClNO.ClH/c1-3-14(4-2)9-10-5-7-11(8-6-10)12(13)15;/h5-8H,3-4,9H2,1-2H3;1H
